US07037938B2
To a solution of methyl 4-[4-[2-[(tert-butoxycarbonyl)[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]phenoxy]benzoate (183 mg) in ethanol (1.2 ml) was added 1N aqueous sodium hydroxide solution (0.6 ml), and the mixture was stirred at 40° C. for 3 hours. The solvent was removed by evaporation, and the aqueous solution was acidified with 1N aqueous hydrochloride solution and extracted with ethyl acetate (30 ml×2). The combined organic layers were washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure to give a benzoic acid product. To a solution of the product in tetrahydrofuran (2.0 ml) was added 4N hydrochloride in 1,4-dioxane (1.0 ml), and the mixture was stirred at room temperature for 12 hours. The resulting solid was collected by filtration and dried to give 4-[4-[2-[[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]-phenoxy]benzoic acid hydrochloride (127 mg).

reactant | methyl 4-[4-[2-[(tert-butoxycarbonyl)[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]phenoxy]benzoate | 183 mg | C(C)(C)(C)OC(=O)N(CCC1=CC=C(OC2=CC=C(C(=O)OC)C=C2)C=C1)C[C@H](O)C1=CC(=CC=C1)Cl | C29H32ClNO6
reactant | sodium hydroxide | 1N, 0.6 ml | [OH-].[Na+]
solvent | ethanol | 1.2 ml | C(C)O | C2H6O
product | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
